US04483867
Preparation of 1,1-Ethandiol bis-(trans-4-aminomethylcyclohexanecarboxylate) dihydrochloride (Method F)
1,1-Ethandiol bis-(trans-4-cyanocyclohexanecarboxylate) (6 g) was dissolved in a mixture of anhydrous ethanol and chloroform. Platinum oxide (1 g) was added and the mixture was hydrogenated at 3.1 MPa at 22° C. for 15 h. The catalyst was filtered off and the solvent evaporated. The product was crystallized from a mixture of 2-propanol and methanol. Yield 5.5 g, m.p. 260° C.

reactant | 1,1-Ethandiol bis-(trans-4-cyanocyclohexanecarboxylate) | 6 g | C(#N)[C@@H]1CC[C@H](CC1)C(=O)OC(C)OC(=O)[C@@H]1CC[C@H](CC1)C#N | C18H24N2O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
catalyst | Platinum oxide | 1 g | [Pt]=O
product | 1,1-Ethandiol bis-(trans-4-aminomethylcyclohexanecarboxylate) dihydrochloride | Cl.Cl.NC[C@@H]1CC[C@H](CC1)C(=O)OC(C)OC(=O)[C@@H]1CC[C@H](CC1)CN | InChI=1S/C18H32N2O4.2ClH/c1-12(23-17(21)15-6-2-13(10-19)3-7-15)24-18(22)16-8-4-14(11-20)5-9-16;;/h12-16H,2-11,19-20H2,1H3;2*1H/t13-,14-,15-,16-;;
